US08624034B2
Step C) Ethyl (2R)-4-{5-fluoro-2-oxo-4-[3-(1,3-thiazol-2-yloxy)phenyl]pyridin-1(2H)-yl}-2-methyl-2-(methylsulfonyl)butanoate
The title compound (534 mg) was prepared as a crude brown oil from 2-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]-1,3-thiazole (1.33 g, 4.39 mmol) and T2 (400 mg, 0.90 mmol) using a procedure analogous to that described for ethyl (2R)-4-[5-fluoro-2-oxo-4-(4-{[trans-4-(tetrahydro-2H-pyran-2-yloxy)cyclohexyl]methoxy}phenyl)pyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)butanoate, Example 18, Step D. MS (LCMS) m/z 495.2 (M+1).

reactant | 2-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]-1,3-thiazole | 4.39 mmol, 1.33 g | CC1(OB(OC1(C)C)C=1C=C(OC=2SC=CN2)C=CC1)C | C15H18BNO3S
reactant | ethyl (2R)-4-[5-fluoro-2-oxo-4-(4-{[trans-4-(tetrahydro-2H-pyran-2-yloxy)cyclohexyl]methoxy}phenyl)pyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)butanoate | FC=1C(=CC(N(C1)CC[C@](C(=O)OCC)(S(=O)(=O)C)C)=O)C1=CC=C(C=C1)OC[C@@H]1CC[C@H](CC1)OC1OCCCC1 | C31H42FNO8S
product | Ethyl (2R)-4-{5-fluoro-2-oxo-4-[3-(1,3-thiazol-2-yloxy)phenyl]pyridin-1(2H)-yl}-2-methyl-2-(methylsulfonyl)butanoate | 534 mg | FC=1C(=CC(N(C1)CC[C@](C(=O)OCC)(S(=O)(=O)C)C)=O)C1=CC(=CC=C1)OC=1SC=CN1 | C22H23FN2O6S2
